US06028195
(c) Phenyl N-(4,5-dimethyl-2-hydroxyphenyl)carbamate
To 4,5-dimethyl-2-hydroxyaniline(6.80 g, 0.05 mole), methylene chloride(100 ml) was added and then phenyl chloroformate(8.0 g, 0.05 mole) was added slowly. After stirring for 2 hours, addition of water(150 ml), extraction with methylene chloride and column chromatography gave the titled compound.

reactant | 4,5-dimethyl-2-hydroxyaniline | 0.05 mole, 6.80 g | CC1=CC(=C(N)C=C1C)O | C8H11NO
reactant | phenyl chloroformate | 0.05 mole, 8.0 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | 150 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Phenyl N-(4,5-dimethyl-2-hydroxyphenyl)carbamate | yield: 92% | CC1=CC(=C(C=C1C)NC(OC1=CC=CC=C1)=O)O | C15H15NO3
